US04940712
4,6-Dimethyl-2-phenylhexylamino-5-(phenyloxyformyl)oxypyrimidine
In a manner similar to that of the method of Example 2, the title compound was prepared from 0.76 g (2.6 mmol) of 4,6-dimethyl-5-hydroxy-2-phenylhexylaminopyrimidine and phenyl chloroformate (0.40 g, 2.6 mmol) to afford 0.74 g of product, mp: 76°-77° C. Mass spectrum m/e=419. NMR (CDCl3) delta: 7.4-6.9 (m, 10H); 4.99 (bs, 1H): 3.3 (q, 7, 4 Hz, 2H); 2.5 (t, 4 Hz, 2H); 2.3 (s, 6H): 1.8-1.1 (m, 8H). IR (CHCl3): 1780, 1583 cm-1. Anal. Calc'd for C25H29N3O3 : C, 71.57; H, 6.97: N, 10.02. Found: C, 71.51; H, 6.95; N, 10.09.

reactant | 4,6-dimethyl-5-hydroxy-2-phenylhexylaminopyrimidine | 2.6 mmol, 0.76 g | CC1=NC(=NC(=C1O)C)NCC(CCCC)C1=CC=CC=C1 | C18H25N3O
reactant | phenyl chloroformate | 2.6 mmol, 0.40 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | 4,6-Dimethyl-2-phenylhexylamino-5-(phenyloxyformyl)oxypyrimidine | CC1=NC(=NC(=C1OC(=O)OC1=CC=CC=C1)C)NCC(CCCC)C1=CC=CC=C1 | C25H29N3O3
